US03991070
Following the procedure of Example 1, 5-trifluoromethyl-2-[3-phthalimidomethyl-4H-1,2,4-triazol-4-yl]-2'-bromobenzophenone is reacted with N-bromosuccinimide to form 5-trifluoromethyl-2-[3-bromo-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl]-2'-bromobenzophenone.

reactant | 5-trifluoromethyl-2-[3-phthalimidomethyl-4H-1,2,4-triazol-4-yl]-2'-bromobenzophenone | FC(C=1C=CC(=C(C(=O)C2=C(C=CC=C2)Br)C1)N1C(=NN=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)(F)F | C25H14BrF3N4O3
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 5-trifluoromethyl-2-[3-bromo-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl]-2'-bromobenzophenone | FC(C=1C=CC(=C(C(=O)C2=C(C=CC=C2)Br)C1)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)Br)(F)F | C25H13Br2F3N4O3
